US05550147
A mixture of ethyl 1-(4-methoxyphenyl)-5-[4-(methylthio)phenyl]pyrazole-3-carboxylate (10.2 g) and potassium hydroxide (3.7 g) in methanol (60 ml) was refluxed for 30 minutes. The solvent was evaporated, and the residue was dissolved in water and washed with toluene. The aqueous layer was acidified, and the precipitates were collected and washed with ethyl acetate to give crystals of 1-(4-methoxyphenyl)-5-[4-(methylthio)phenyl]pyrazole-3-carboxylic acid. (8.8 g).

reactant | ethyl 1-(4-methoxyphenyl)-5-[4-(methylthio)phenyl]pyrazole-3-carboxylate | 10.2 g | COC1=CC=C(C=C1)N1N=C(C=C1C1=CC=C(C=C1)SC)C(=O)OCC | C20H20N2O3S
reactant | potassium hydroxide | 3.7 g | [OH-].[K+]
solvent | methanol | 60 ml | CO | CH4O
product | 1-(4-methoxyphenyl)-5-[4-(methylthio)phenyl]pyrazole-3-carboxylic acid | COC1=CC=C(C=C1)N1N=C(C=C1C1=CC=C(C=C1)SC)C(=O)O | C18H16N2O3S
